US06797726B1
In 50 mL of methylene chloride is dissolved 5.00 g of 2-(2-benzo[b]thiophen-5-ylethoxy)-acetic acid. At an ice-cooled temperature, 2.2 mL of oxalyl chloride and 0.1 mL of N,N-dimethylformamide are added to the solution obtained above, and the mixture thus formed is stirred at ambient temperature for 30 minutes. The solvent is distilled off under reduced pressure, the residue is dissolved in 5 mL of tetrahydrofuran, and the solution thus obtained is dropwise added to a tetrahydrofuran solution of sodium salt of di-tert-butyl malonate, prepared from 1.01 g of sodium hydride and 5.70 mL of di-tert-butyl malonate, at an ice-cooled temperature. The mixture thus obtained was stirred at the same temperature as above for 30 minutes. The reaction mixture is introduced into a mixture of ice water and ethyl acetate, pH is adjusted to 1.0 with 2 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is heated under reflux together with 20 mL of methylene chloride and 10 ml of trifluoroacetic acid, the solvent is distilled off under reduced pressure, and the residue is heated to make progress a de-carbonization reaction. Water and ethyl acetate are added to the reaction mixture, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium hydrogen carbonate and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: n-hexane:ethyl acetate=7:1 to 5:1) to obtain 3.67 g of 1-(2-benzo[b]thiophen-5-ylethoxy)-acetone.

reactant | 2-(2-benzo[b]thiophen-5-ylethoxy)-acetic acid | 5.00 g | S1C2=C(C=C1)C=C(C=C2)CCOCC(=O)O | C12H12O3S
reactant | oxalyl chloride | 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium | [Na] | Na
reactant | di-tert-butyl malonate | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | sodium hydride | 1.01 g | [H-].[Na+]
reactant | di-tert-butyl malonate | 5.70 mL | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | 1-(2-benzo[b]thiophen-5-ylethoxy)-acetone | 3.67 g | S1C2=C(C=C1)C=C(C=C2)CCOCC(=O)C | C13H14O2S
